US07585885B2
N-{(1S,2R)-1-(3,5-Difluoro-benzyl)-2-[(2R,4R)-4-(2,3-dihydroxy-3-methyl-butoxy)-pyrrolidin-2-yl]-2-hydroxy-ethyl}-acetamide hydrochloride
Add 4M hydrogen chloride in dioxane (5 mL) to (2R,4R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-(2,3-dihydroxy-3-methyl-butoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.07 g, 0.126 mmol). Stir 4 hours and evaporate to give the title compound as a foam (0.062 g, 100%).

reactant | hydrogen chloride | 4M | Cl | ClH
reactant | (2R,4R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-(2,3-dihydroxy-3-methyl-butoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.126 mmol, 0.07 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)OCC(C(C)(C)O)O)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C28H42F2N2O7
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-{(1S,2R)-1-(3,5-Difluoro-benzyl)-2-[(2R,4R)-4-(2,3-dihydroxy-3-methyl-butoxy)-pyrrolidin-2-yl]-2-hydroxy-ethyl}-acetamide hydrochloride | 0.062 g, 100% | Cl.FC=1C=C(C[C@@H]([C@H](O)[C@@H]2NC[C@@H](C2)OCC(C(C)(C)O)O)NC(C)=O)C=C(C1)F | InChI=1S/C20H30F2N2O5.ClH/c1-11(25)24-17(6-12-4-13(21)7-14(22)5-12)19(27)16-8-15(9-23-16)29-10-18(26)20(2,3)28;/h4-5,7,15-19,23,26-28H,6,8-10H2,1-3H3,(H,24,25);1H/t15-,16-,17+,18?,19-;/m1./s1
